US09374998B2
In a 20 mL microwave vial are dissolved in 10 mL of N,N-dimethylformamide, 200 mg (0.48 mmol) of N-(2-bromo-4-methylbenzyl)-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide and 188 mg (0.96 mmol) of N,N-dicyclohexylmethylamine. The medium is degassed with argon and 5.4 mg (0.024 mmol) of palladium (II) acetate are added followed by 14 mg (0.048 mmol) of tri-ter-butylphosphonium tetrafluoroborate and 325 mg (4.8 mmol) of cyclopentene. The microwave apparatus [Biotage Initiator™] is then heated at 160° C. for 20 minutes. The reaction mixture is cooled to ambient temperature, diluted by 50 mL of dichloromethane, filtered over a pad of silica gel, and successively washed by a 1N aqueous solution of HCl and a saturated aqueous solution of LiCl. The organic phase is dried, concentrated and purified by column chromatography on silica gel (gradient heptane/ethyl acetate) to yield 100 mg (49% yield) of N-[2-(cyclopentenyl)-4-methylbenzyl]-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide as a 2:5:1 mixture of three isomers: (M+H)=404.

reactant | N-(2-bromo-4-methylbenzyl)-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide | 0.48 mmol, 200 mg | BrC1=C(CN(C(=O)C=2C(=NN(C2F)C)C(F)F)C2CC2)C=CC(=C1)C | C17H17BrF3N3O
reactant | N,N-dicyclohexylmethylamine | 0.96 mmol, 188 mg | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
reactant | tri-ter-butylphosphonium tetrafluoroborate | 0.048 mmol, 14 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | cyclopentene | 4.8 mmol, 325 mg | C1=CCCC1 | C5H8
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | palladium (II) acetate | 0.024 mmol, 5.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-[2-(cyclopentenyl)-4-methylbenzyl]-N-cyclopropyl-3-(difluoromethyl)-5-fluoro-1-methyl-1H-pyrazole-4-carboxamide | 100 mg, 49% yield | C1(=CCCC1)C1=C(CN(C(=O)C=2C(=NN(C2F)C)C(F)F)C2CC2)C=CC(=C1)C | C22H24F3N3O
